US06479536B1
N-(4-Methoxybenzyl)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine
By using 4-methoxy-N-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]benzamide, the title compound was synthesized according to Example 2b. Yield: 58%. Melting point: 97-98° C. (Ethanol)

reactant | 4-methoxy-N-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]benzamide | COC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C)C2C)C)C)C=C1 | C28H31NO3
solvent | Ethanol | C(C)O | C2H6O
product | N-(4-Methoxybenzyl)-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | Yield: 58% | COC1=CC=C(CNC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C)C2C)C)C)C=C1 | C28H33NO2
